US06686381B2
[4-(3-Dimethylaminomethylene-thioureido)-butyl]-carbamic Acid tert-Butyl Ester
The title compound was synthesised from (4-Thioureido-butyl)-carbamic acid tert-butyl ester and Dimethylformamide dimethyl acetal according to the procedure described for Example C in 76% yield. MS (m/e): 303.3 (MH+, 100%).

reactant | (4-Thioureido-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNC(=S)N)=O | C10H21N3O2S
reactant | Dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | [4-(3-Dimethylaminomethylene-thioureido)-butyl]-carbamic Acid tert-Butyl Ester | 76% yield | C(C)(C)(C)OC(NCCCCNC(=S)N=CN(C)C)=O | C13H26N4O2S
